US04117128
3-[4-(3-Diethylaminopropoxy)phenylsulfonyl]-2-phenylbenzofuran
A solution of 0.14 g. (0.006 g.-atom) of sodium in 20 ml. of methanol was added to a solution of 1.1 g. (0.003 mol.) of 3-(4-hydroxyphenylsulfonyl)-2-phenylbenzofuran in 25 ml. of dry methanol and the mixture was refluxed for 0.5 hour. The solvent was evaporated and 25 ml. of toluene and 3 ml. of dimethylformamide were added to the residue. A solution of 0.86 g. (0.006 mol.) of 3-diethylaminopropyl chloride in 10 ml. of toluene was added dropwise and the mixture was refluxed for 2.5 hours. An additional 0.162 g. (0.003 mol.) of sodium methoxide and 0.43 g. (0.003 mol.) of 3-diethylaminopropyl chloride were added and the mixture was refluxed for ca. 16 hours. The mixture was filtered, water and methylene chloride were added and the layers were separated. The aqueous phase was extracted with methylene chloride and the organic phase was extracted with water and saturated sodium chloride solution. The organic layers were combined, dried (MgSO4) and evaporated to dryness to give the title compound.

reactant | sodium | 0.006 g | [Na] | Na
reactant | 3-(4-hydroxyphenylsulfonyl)-2-phenylbenzofuran | 0.003 mol | OC1=CC=C(C=C1)S(=O)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=CC=C2 | C20H14O4S
reactant | 3-diethylaminopropyl chloride | 0.006 mol | C(C)N(CCCCl)CC | C7H16ClN
reactant | sodium methoxide | 0.003 mol | C[O-].[Na+]
reactant | 3-diethylaminopropyl chloride | 0.003 mol | C(C)N(CCCCl)CC | C7H16ClN
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 3-[4-(3-Diethylaminopropoxy)phenylsulfonyl]-2-phenylbenzofuran | C(C)N(CCCOC1=CC=C(C=C1)S(=O)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=CC=C2)CC | C27H29NO4S
